US04610819
2-[2-(Dimethylamino)ethyl]-2,3-dihydro-4-methyl-1,4-oxazepino[6,7-c]quinolin-5(4H)-one
To a suspension of 19.4 g (35% in oil, 0.172 mole) of potassium hydride in 150 ml of tetrahydrofuran was added at a rapid drop, 12.4 g (0.086 mole) of 4-dimethylamino-1-methylamino-2-butanol. After 10 min., 20 g (0.086 mole) of 3-carboxyethyl-4-chloroquinoline was added via a powder dropping funnel over a period of 30 min. The mixture was stirred at room temperature overnight. Approximately 50 ml of water was added to quench the reaction and the mixture was partitioned between isopropanol ether and water. The aqueous layer was extracted again with two 70 ml portions of isopropyl ether. The aqueous layer was then continuously extracted for 15 hr with chloroform. The chloroform layer was collected, filtered and concentrated by rotary evaporation at 80°, 30 mm. The crude material (18 g) was purified by HPLC using silica gel as the stationary phase and 3% triethylamine/ethanol as the eluent. Approximately 4 g (b 15.6%) of product was obtained on evaporation of fractions having a similar thin layer chromatograph (TLC) using ethyl acetate, methanol and aqueous conc. ammonia (7:2:1 parts by volume respectively) on silica. TLC of the final product using the same solvent mix on silica was identical to that of the free base of the same compound prepared in Example 2. C.I. mass spec showed M+H of 300. The oxalate salt was also identical to that obtained in Example 2.

reactant | potassium hydride | 0.172 mole, 19.4 g | [H-].[K+]
reactant | 4-dimethylamino-1-methylamino-2-butanol | 0.086 mole, 12.4 g | CN(CCC(CNC)O)C | C7H18N2O
reactant | 3-carboxyethyl-4-chloroquinoline | 0.086 mole, 20 g | C(=O)(O)CCC=1C=NC2=CC=CC=C2C1Cl | C12H10ClNO2
reactant | ammonia | N | H3N
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 2-[2-(Dimethylamino)ethyl]-2,3-dihydro-4-methyl-1,4-oxazepino[6,7-c]quinolin-5(4H)-one | CN(CCC1OC2=C(C=NC=3C=CC=CC23)C(N(C1)C)=O)C | C17H21N3O2
